US08026234B2
4-(9-Cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid:
2-Chloro-9-cyclopentyl-7-fluoro-5-methyl-7-vinyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one, 4-amino-3-methoxy benzoic acid (1.2 equivalent), i-PrOH and conc. HCl (30 drops) were heated to 95° C. for 18 hours. A this time the reaction was cooled to room temperature and filtered to reveal the product as a tan solid in good yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.51-1.75 (m, 6H) 1.85 (m, 2H) 3.29 (s, 3H) 3.73-3.97 (m, 2H) 3.93 (s, 3H) 4.94 (m, 1H) 5.40-5.54 (m, 2H) 6.05 (m, 1H) 7.48-7.65 (m, 2H) 8.09 (d, J=8.34 Hz, 1H) 8.23 (s, 1H) 9.51 (br. s., 1H). [M+H] calculated for C23H26FN5O4, 456. found 456.

reactant | 2-Chloro-9-cyclopentyl-7-fluoro-5-methyl-7-vinyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C=C)F)C2CCCC2)N1 | C15H18ClFN4O
reactant | 4-amino-3-methoxy benzoic acid | 1.2 equivalent | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
catalyst | HCl | 30 drops | Cl | ClH
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(9-Cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H26FN5O4
